US07259266B2
Step 1. Preparation of ethyl 8-(phenylethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21a, Step 2 (1.00 g, 2.07 mmole), phenylacetylene (0.455 mL, 4.15 mmole), CuI (39.5 mg, 0.207 mmole), PdCl2(dppf)2.CH2Cl2 (169 mg, 0.207 mmole) and TEA (0.867 mL, 6.22 mmole) in anhydrous toluene (10 mL) was stirred at room temperature for 18.5 h. The mixture was then poured into brine (100 mL) and extracted with EtOAc. The EtOAc layer was separated, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica chromatography (9:1 hexanes:EtOAc) to give 0.802 g (85% yield) of the product as a yellow crystalline solid: EIHRMS m/z 456.0781 (M+, C14H14F6O4, Calc'd 456.0796).

reactant | ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H9F6IO4
reactant | phenylacetylene | 4.15 mmole, 0.455 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | CH2Cl2 | 0.207 mmole, 169 mg | C(Cl)Cl | CH2Cl2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | CuI | 0.207 mmole, 39.5 mg | [Cu]I
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 8-(phenylethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.802 g, 85% yield | C1(=CC=CC=C1)C#CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C22H14F6O4
